US07268230B2
Diethyl azodicarboxylate (0.297 g, 1.71 mmol) was added to a solution of 4-chloro-7-hydroxy-6-methoxyquinazoline (0.3 g, 1.42 mmol), (prepared as described for the starting material in Example 4), triphenylphosphine (0.485 g, 1.85 mmol) and 2-(N-methyl-N-prop-2-yn-1-ylamino)ethanol (0.177 g, 1.56 mmol) in methylene chloride (8 ml). The mixture was stirred for 2 hours at ambient temperature and poured onto a column of silica and eluted with increasingly polar mixtures of methylene chloride and ethyl acetate followed by ethyl acetate to give 4-chloro-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline (0.341 g, 78%).

reactant | Diethyl azodicarboxylate | 1.71 mmol, 0.297 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-chloro-7-hydroxy-6-methoxyquinazoline | 1.42 mmol, 0.3 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | triphenylphosphine | 1.85 mmol, 0.485 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(N-methyl-N-prop-2-yn-1-ylamino)ethanol | 1.56 mmol, 0.177 g | CN(CC#C)CCO | C6H11NO
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-methoxy-7-[2-(N-methyl-N-prop-2-yn-1-ylamino)ethoxy]quinazoline | 0.341 g, 78% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN(CC#C)C | C15H16ClN3O2
